Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Melena / hematochezia
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
History from patient via ___ phone interpreter. I spoke 
with PCP office RN ___ for further medical information

cc: GI bleeding

HPI:  ___ w/ history of infertility, GERD, prior H. pylori 
treated ___, hemorrhoids, presents with 6 weeks weeks of rectal 
bleeding. She's had off/on dark black stool and BRBPR, 
associated with early satiety, bloating, decreased appetite, and 
perhaps ___ pound weight loss.  She was seen ___ at PCP with 
report of dark stool. At that visit she was guaiac (+) and a CBC 
was sent. 

- ___ PCP call patient with CBC results showing Hgb 10.6, 
HCT 32.7, and because patient was feeling light-headed with 
persistent dark stool, recommended she go to ER. Patient told 
them she couldn't go. 
- ___ Patient vomited food (no coffee grounds) x 3, still 
light-headed
- ___ patient called PCP with an update, that she was still 
light-headed and again was recommended she go to ER, but she was 
"too busy"

      In the ER she reported ___ weeks of dark stools with BRBP 
more recently, associated with lightheadedness and near syncope, 
no nausea or abdominal pain, no LOC. She was not orthostatic in 
ER by vital signs.

VS: AF, 117/63, 71, 20, 100%RA. She was given 1L NS.

ROS: Also (+) bilat LEx numbness starting in toes, to feet to 
knees over last ___ years. At times in R hand with particular 
movements like holding phone to ear, no neck pain, back pain, 
falls, focal weakness, change in gait or incontinence

 
Past Medical History:
- GERD
    * H.Pylori AB (+) ___ H. pylori stool Ag (-) ___
    * PPI (last Rx'd ___
- Anal Hemorrhoids (Colonoscopy ___ for hematochezia = medium
sized hemorrhoids)
- Ectopic pregnancy
- s/p L salpingo-oophorectomy
- Infertility
 
Social History:
___
Family History:
No history of GI malignancy
 
Physical Exam:
PE: 97.9, 106/56, 70, 22, 100%
Anicteric, OP clear, neck supple, no ___
LUNGS CTA bilat
COR RRR nl S1/S2 no MRG
ABD soft, NT/ND no HSM no masses
EXT no C/C/E
SKIN no rashes
MSK no arthritis
NERUO alert, fluent speech, nl cognition, reported decreased
sensation bilateral distal legs, strength = ___ in all groups
proximal and distal, CN2-12 intact bilat, gait normal

 
Pertinent Results:
___
CBC
5.0  12.7  198
     40.1

___
CBC
5.9  10.6  277
     32.7

___ 13:37   
UCG: Negative 
UA clear

___ 13:08   
138  ___   AGap=14 
4.1  24  0.6  

A1C 4.8%, TSH:1.6, Vit-B12:437, Iron:27, calTIBC:391, Ferritn:11 

TRF: 301, ALT: 12 AP: 44 Tbili: <0.2 Alb: 4.3 AST: 19 

CBC (nl diff) 
4.6  9.9  230 
     30.9  

___: 10.3  PTT: 32.6  INR: 1.0 
 
___ 07:00   
141  ___   AGap=13  
4.1  24  0.7  
Ca: 8.1 Mg: 2.2 P: 3.5

CBC 
4.0  9.7  199 
     29.8 

Serum H. Pylori Ab = PENDING
Anti-TTG = PENDING
IgA = PENDING

___ EGD
Findings: Esophagus: Normal esophagus. 
Stomach: Normal stomach. 
Duodenum: Normal duodenum. 
Other
Findings: No fresh blood, old blood or potential source of 
bleeding.  
Impression: No fresh blood, old blood or potential source of 
bleeding.
Otherwise normal EGD to third part of the duodenum 

 
Brief Hospital Course:
___ w/ history of GERD, prior H. pylori treated ___, 
hemorrhoids (colonoscopy ___ presents with several weeks of 
melena, several days BRPR with associated orthostasis, one 
episode of vomiting a few days ago, and labs suggesting acute on 
subacute blood loss anemia, concerning for upper GI bleed.

# Iron deficiency anemia
# GI bleeding - known hemorrhoid
# GERD
# Orthostasis - resolved
# Neuropathy, NOS

Course:
She did not require blood transfusion. She was given IV 40mg 
Pantoprazole BID until EGD performed ___ with clean 
esophagus and stomach, and them moved to oral form. Labs 
revealed iron deficiency anemia and low normal B12. Diet was 
advance and she was started on iron and MVI daily, as well as 
miralax daily.  H. pylori Ab was sent. Anti-TTG and IGA was sent 
to ensure she does not have Celiac disease and this will need to 
be followed. She was set up with PCP ___ as well as GI clinic 
___ with ___ interpreter since she will need capsule 
endoscopy to rule out other upper (small intestine) bleeding 
source.  LFTs were normal. I encouraged her to discuss her 
numbness further with her PCP for further evaluation.  
Recommendations were reviewed with ___ interpreter prior to 
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone (Rectal) 2.5% Cream ___ID:PRN 
hemmorrhoids 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*60 Tablet Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 capsule(s) by mouth daily Disp #*60 Capsule 
Refills:*0 
3.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Purelax] 17 gram/dose 17gm 
powder(s) by mouth daily Refills:*0 
5.  Hydrocortisone (Rectal) 2.5% Cream ___ID:PRN 
hemmorrhoids  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Iron deficiency anemia
GI bleeding - unclear source (known hemorrhoids)
Neuropathy, NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with bloody stool, abdominal bloating and some 
dizziness. You did not require transfusion and your blood count 
was stable. You were found to have iron deficiency and were 
started on iron therapy and multivitamin. You underwent 
endoscopy which did not show any stomach bleeding. While the 
bleeding could all be from your known hemorrhoids, in order to 
rule out another location of bleeding in your intestine, you 
should follow up with the gastroenterologist for an outpatient 
capsule endoscopy study.  In the meantime, please take twice 
daily acid suppressant, continue the iron and multivitamin and 
avoid constipation with stool softeners as needed.  Appointments 
were made for you.
 
Followup Instructions:
___